US06110963
{4'-[(2-Butyl-benzofuran-3-yl)-hydroxy-methyl]-biphenyl-4-yloxy}-acetic acid
The title compound was prepared from 4'-[(2-butyl-benzofuran-3-yl)-hydroxymethyl]-biphenyl-4-ol, and methyl bromoacetate in substantially the same manner, as described in Example 4, and was obtained as a yellow solid, mp 111-113° C.; MS m/e 430 (M+);

reactant | 4'-[(2-butyl-benzofuran-3-yl)-hydroxymethyl]-biphenyl-4-ol | C(CCC)C=1OC2=C(C1C(C1=CC=C(C=C1)C1=CC=C(C=C1)O)O)C=CC=C2 | C25H24O3
reactant | methyl bromoacetate | BrCC(=O)OC | C3H5BrO2
product | {4'-[(2-Butyl-benzofuran-3-yl)-hydroxy-methyl]-biphenyl-4-yloxy}-acetic acid | C(CCC)C=1OC2=C(C1C(C1=CC=C(C=C1)C1=CC=C(C=C1)OCC(=O)O)O)C=CC=C2 | C27H26O5
